US07732477B2
7-[(Z)-Amino(hydroxyimino)methyl]-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzo-thiophene-2-carboxamide dihydrochloride
120 mg (0.43 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-cyano-1-benzo-thiophene-2-carboxamide hydrochloride, 45.0 mg (0.65 mmol) of hydroxylamine hydrochloride and 119.2 mg (0.86 mmol) of potassium carbonate in 1.5 ml of an 8:1 mixture of water and ethanol are heated at 80° C. for 18 h. The mixture is purified by preparative HPLC. The product fractions are combined and concentrated, acetonitrile and 1N aqueous hydrochloric acid (3:1) are added and the mixture is then again concentrated and dried under high vacuum. 58 mg (30.3% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-7-cyano-1-benzo-thiophene-2-carboxamide hydrochloride | 0.43 mmol, 120 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC=C1C#N
reactant | hydroxylamine hydrochloride | 0.65 mmol, 45.0 mg | Cl.NO
reactant | potassium carbonate | 0.86 mmol, 119.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 7-[(Z)-Amino(hydroxyimino)methyl]-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzo-thiophene-2-carboxamide dihydrochloride | Cl.Cl.N\C(\C1=CC=CC=2C=C(SC21)C(=O)N[C@H]2CN1CCC2CC1)=N/O | InChI=1S/C17H20N4O2S.2ClH/c18-16(20-23)12-3-1-2-11-8-14(24-15(11)12)17(22)19-13-9-21-6-4-10(13)5-7-21;;/h1-3,8,10,13,23H,4-7,9H2,(H2,18,20)(H,19,22);2*1H/t13-;;/m0../s1
